US05861421
1b) 4-(3-cyclopentyloxy-4-methoxyphenyl)-1,1-(ethylenedioxy)-4-formylcyclohexane
Diisobutylaluminum hydride (1.0M in toluene, 8.13 mL, 8.13 mmol) was added dropwise to a solution of 4-cyano-4-(3-cyclopentyloxy-4-methoxyphenyl)-1,1-(ethylenedioxy)cyclohexane (1.16 g, 3.19 mmol) dissolved in toluene (20 mL) under an argon atmosphere. After 18 h at room temperature, saturated aqueous sodium bisulfite (100 mL) was added and the mixture was extracted three times with dichloromethane. The combined organic extract was washed with brine, was dried (potassium carbonate) and was evaporated. Purification by flash chromatography, eluting with 4:1 hexanes/ethyl acetate, provided a clear colorless oil. 1H NMR(400 MHz, CDCl3) δ 9.35 (s, 1H), 6.88 (br s, 2H), 6.80 (s, 1H), 4.73 (m, 1H), 3.95 (m, 4H), 3.85 (s, 3H), 2.33 (m, 2H), 2.10 (m, 2H), 1.57-1.99 (m, 12H).

reactant | Diisobutylaluminum hydride | 8.13 mmol, 1.0M, 8.13 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 4-cyano-4-(3-cyclopentyloxy-4-methoxyphenyl)-1,1-(ethylenedioxy)cyclohexane | 3.19 mmol, 1.16 g | C(#N)C1(CCC2(CC1)OCCO2)C2=CC(=C(C=C2)OC)OC2CCCC2 | C21H27NO4
reactant | sodium bisulfite | 100 mL | S([O-])(O)=O.[Na+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(3-cyclopentyloxy-4-methoxyphenyl)-1,1-(ethylenedioxy)-4-formylcyclohexane | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC2(CC1)OCCO2)C=O | C21H28O5
